US05527905
2(c) 8.74 ml of a 1N aqueous solution of sodium hydroxide were added to a solution of 1.0 g of diethyl 2-oxopyrrolidine-5,5-dicarboxylate (prepared as described above) in 10 ml of ethanol, and the mixture was stirred at room temperature for 3 days. At the end of this time, the solvent was removed by distillation under reduced pressure, and the residual crystals were washed with acetone and dried to give 950 mg of sodium 2-oxopyrrolidine-5,5-dicarboxylate as a colorless powder.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | diethyl 2-oxopyrrolidine-5,5-dicarboxylate | 1.0 g | O=C1NC(CC1)(C(=O)OCC)C(=O)OCC | C10H15NO5
solvent | ethanol | 10 ml | C(C)O | C2H6O
product | sodium 2-oxopyrrolidine-5,5-dicarboxylate | 950 mg | O=C1NC(CC1)(C(=O)[O-])C(=O)[O-].[Na+].[Na+] | InChI=1S/C6H7NO5.2Na/c8-3-1-2-6(7-3,4(9)10)5(11)12;;/h1-2H2,(H,7,8)(H,9,10)(H,11,12);;/q;2*+1/p-2
